US06610733B2
A solution of (+)-7-hydroxy-3-(4-hydroxyphenyl)-3-methylchroman-4-one (2.0 g, 7.40 mmol) in anhydrous tetrahydrofuran (30 ml) was cooled to −78° C. To this solution, a solution of diisobutylaluminum hydride in toluene (1N, 22.94 ml, 22.94 mmol) was slowly added dropwise, and the resulting mixture was stirred for 35 minutes at −78° C. Methanol (1 ml) was added to the reaction mixture at −78° C., which was then warmed to 0° C. and further saturated aqueous ammonium chloride (5 ml) and concentrated hydrochloric acid (7 ml) were added to the mixture followed by stirring for 30 minutes. The reaction mixture was extracted twice with ethyl acetate. The combined organic layers were washed with water and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. After distilling off the solvent, zinc iodide (2.55 g, 7.98 mmol) was added to a suspension of the residue and allyltrimethylsilane (5.3 ml, 33.2 mmol) in 1,2-dichloroethane (80 ml) followed by stirring for 12 hours at room temperature. Saturated aqueous ammonium chloride (15 ml), methanol (10 ml) and concentrated hydrochloric acid (10 ml) were added to the reaction mixture, followed by stirring for 30 minutes. The reaction mixture was extracted twice with dichloromethane. The combined organic layers were washed with water and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/4) to give optically active 7-hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-(2-propenyl)chroman (cis-configuration, 859 mg, Yield 44%).

reactant | (+)-7-hydroxy-3-(4-hydroxyphenyl)-3-methylchroman-4-one | 7.40 mmol, 2.0 g | OC1=CC=C2C(C(COC2=C1)(C)C1=CC=C(C=C1)O)=O | C16H14O4
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 22.94 mmol, 1N, 22.94 ml | C1(=CC=CC=C1)C | C7H8
reactant | ammonium chloride | 5 ml | [Cl-].[NH4+]
reactant | hydrochloric acid | 7 ml | Cl | ClH
reactant | allyltrimethylsilane | 33.2 mmol, 5.3 ml | C(C=C)[Si](C)(C)C | C6H14Si
reactant | ammonium chloride | 15 ml | [Cl-].[NH4+]
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | 1,2-dichloroethane | 80 ml | ClCCCl | C2H4Cl2
catalyst | zinc iodide | 7.98 mmol, 2.55 g | [I-].[Zn+2].[I-]
solvent | methanol | 10 ml | CO | CH4O
solvent | Methanol | 1 ml | CO | CH4O
product | 7-hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-(2-propenyl)chroman | 859 mg, Yield 44% | OC1=CC=C2C(C(COC2=C1)(C)C1=CC=C(C=C1)O)CC=C | C19H20O3
